US05366982
By using a similar procedure to that described in example 9 but with 2.4 g 6-{[6-phenyl-4-(3,4-methylenedioxyphenyl)-2-pyridyl]oxy}hexanonitrile, 1.65 g of sodium azide, 1.3 g of triethylamine hydrochloride (in place of ammonium chloride) and 90 cc of N-methylpyrrolidone (in place of dimethylformamide) as the starting material (70 hours; 150° C.), and after purification by flash chromatography on silica gel (30-60 mm; eluent: ethyl acetate) and recrystallization from 18 cc of acetonitrile gives 5-{5-{[6-phenyl-4-(3,4-methylenedioxyphenyl)-2-pyridyl]oxy}pentyl }-1H-tetrazole (m.p.=150° C.)

reactant | 6-{[6-phenyl-4-(3,4-methylenedioxyphenyl)-2-pyridyl]oxy}hexanonitrile | 2.4 g | C1(=CC=CC=C1)C1=CC(=CC(=N1)OCCCCCC#N)C1=CC2=C(C=C1)OCO2 | C24H22N2O3
reactant | sodium azide | 1.65 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 1.3 g | Cl.C(C)N(CC)CC
solvent | N-methylpyrrolidone | 90 cc | CN1C(CCC1)=O | C5H9NO
product | 5-{5-{[6-phenyl-4-(3,4-methylenedioxyphenyl)-2-pyridyl]oxy}pentyl }-1H-tetrazole | C1(=CC=CC=C1)C1=CC(=CC(=N1)OCCCCCC1=NN=NN1)C1=CC2=C(C=C1)OCO2 | C24H23N5O3
